US07763584B2
To solution of methyl sulfoxide (23.90 ml, 337 mmol) in DCM (100 ml) at −78° C. was added oxalyl chloride (2 M in DCM, 84 ml, 168 mmol) dropwise. The formed solution was stirred at this temperature for 30 min. A solution of (2S,4R)-1-benzyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate (21.38 g, 77 mmol) in DCM (100 ml) was added dropwise at −78° C. The formed slurry was stirred at −78° C. for 2 hr before addition of N,N-Diisopropylethylamine (66.7 ml, 383 mmol) dropwise. The final solution was stirred at room temperature 3 h. The mixture was washed with iced 1M HCl, 5% citric acid, and then brine, dried over MgSO4, filtered, and evaporated. The residual light brown oil was purified by silica gel column chromatography, eluted with 4:1, 3:1, then 2:1 hexane-EtOAc to afford (S)-1-benzyl 2-methyl 4-oxopyrrolidine-1,2-dicarboxylate (14.8 g, 70% yield) as light brown viscous oil.

reactant | methyl sulfoxide | 337 mmol, 23.90 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 168 mmol, 2 M, 84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4R)-1-benzyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate | 77 mmol, 21.38 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C14H17NO5
reactant | N,N-Diisopropylethylamine | 383 mmol, 66.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | (S)-1-benzyl 2-methyl 4-oxopyrrolidine-1,2-dicarboxylate | 14.8 g, 70% yield | O=C1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C14H15NO5
